### ISSUE TITLE
interactive grind parsing inside match

### ISSUE THREAD

**Issue by chenson2018** [leanprover/lean4#13822]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Interactive grind (`grind =>`) has unexpected parsing within a match.

### Context

Reported at [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/interactive.20grind.20and.20match.20parsing/with/597139245)

### Steps to Reproduce

```lean
def x := 1

-- this fails with a `unexpected identifier; expected command`
example : x = 1 := by
  match true with
  | true => grind => instantiate only [x]
  | false => rfl

-- adding a semicolon works
example : x = 1 := by
  match true with
  | true => grind => instantiate only [x];
  | false => rfl

-- or placing `grind =>` last works
example : x = 1 := by
  match true with
  | true => rfl
  | false => grind => instantiate only [x]
```

**Expected behavior:**

`grind =>` parses within any branch of a match

**Actual behavior:**

`grind =>` fails to parse within a match unless followed by a semicolon or in the last branch.

### Versions

Lean 4.30.0-rc2
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
